US08242145B2
Step 3: [3-(5-Bromo-2-bromomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester
Prepared according to the procedure described in Example 6, Step 4, using the following starting materials: [3-(5-bromo-2-hydroxymethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester and phosphorus tribromide.

reactant | [3-(5-bromo-2-hydroxymethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=CC(=C1)Br)CO)=O | C17H17BrO5
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | [3-(5-Bromo-2-bromomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=CC(=C1)Br)CBr)=O | C17H16Br2O4
